US09062059B2
Methyl 5-((2-methyl-6-(((1S,2S)-2-(5-methylpyridin-2-yl)cyclopropyl)methoxy)pyrimidin-4-ylamino)methyl)-1,3,4-thiadiazole-2-carboxylate (17-9)
The solution of ethyl 5-((tert-butoxycarbonyl(2-methyl-6-(((1S,2S)-2-(5-methylpyridin-2-yl)cyclopropyl)methoxy)pyrimidin-4-yl)amino)methyl)-1,3,4-thiadiazole-2-carboxylate (S-7) (70 mg, 0.1294 mmol) in TFA (1 mL) was stirred at room temperature for 1 h. The solvent was removed under reduced pressure and the residue was purified by reverse phase column (Waters Sunfire Prep C18 OBD, 5-75% methanol in water with 0.1% NH3H2O modifier) to provide product as a white solid (25 mg, 21.4%). 1H NMR (400 MHz, CDCl3) δ 8.26 (s, 1H), 7.35 (dd, J=7.9, 1.7 Hz, 1H), 7.03 (d, J=7.9 Hz, 1H), 5.60 (s, 1H), 5.48 (s, 1H), 5.02 (d, J=6.3 Hz, 1H), 4.27 (ddd, J=24.1, 11.1, 7.0 Hz, 2H), 4.03 (s, 3H), 2.48 (d, J=5.8 Hz, 3H), 2.19 (s, 3H), 1.87-1.85 (m, 1H), 1.85-1.80 (m, 1H), 1.32-1.29 (m, 1H), 1.06-1.02 (m, 1H); LRMS (ESI) calculated M+H for C20H23N6O3S: 427.5. Found: 427.1.

reactant | ethyl 5-((tert-butoxycarbonyl(2-methyl-6-(((1S,2S)-2-(5-methylpyridin-2-yl)cyclopropyl)methoxy)pyrimidin-4-yl)amino)methyl)-1,3,4-thiadiazole-2-carboxylate | 0.1294 mmol, 70 mg | C(C)(C)(C)OC(=O)N(C1=NC(=NC(=C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)C)C)CC1=NN=C(S1)C(=O)OCC | C26H32N6O5S
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 5-((2-methyl-6-(((1S,2S)-2-(5-methylpyridin-2-yl)cyclopropyl)methoxy)pyrimidin-4-ylamino)methyl)-1,3,4-thiadiazole-2-carboxylate | 25 mg, 21.4% | CC1=NC(=CC(=N1)NCC1=NN=C(S1)C(=O)OC)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)C | C20H22N6O3S
